Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3]>>[H:1][O:2][O:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],-0.50407769366
[O:1]=[C:2][C:5]([H:3])([H:4])[H:10].[O:6]=[C:7]([H:8])[H:9]>>[O:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10],-0.57898433922
[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[O:8],2.43345270449
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8])[C:12]([H:13])([H:14])[H:15],7.50936099991
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7]>>[C:2]([H:3])([H:4])[C:5]#[C:6][H:7].[O:1],3.4249340595599995
[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])#[C:6][O:7][H:8].[H:1][C:2]#[C:3][C:9]([H:10])([H:11])[H:12],-0.66840336648
[C:1]#[C:2][O:3][C:4][C:5]([H:6])=[O:7].[H:8]>>[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8],-3.26286048038
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2]#[C:3].[O:4]=[C:5]=[C:6]([H:7])[O:8][H:9],1.48754301454
[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6]>>[O:1][C:2]#[C:3][H:4].[O:5][H:6],5.08187475199
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7],4.10601029546
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7].[O:8]=[C:9]([H:10])[H:11],0.16683073935
[H:15].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.5553531001300005
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]/[C:3]([C:4][O:5][H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.15506390365
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8],3.75343012876
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([O:4][H:5])=[C:6][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.498469383840001
[H:1]/[C:2]([C:3][H:4])=[C:5]([H:6])\[C:7]([H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1=[C:3]([H:4])[C:5]1([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.55171791291
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],3.5800941377
[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.05972783539
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],1.9707844041
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.06422707263
[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-3.56923087021
[H:11].[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.08839522888
[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][C:14]([H:15])([H:16])[H:17].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.82413279308
[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.797127650969999
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.564639241938
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.96824920796
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.99698535572
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.35722312691
